### PR TITLE
feat: add `BitVec.ctz` to `bv_decide`

### PR DESCRIPTION
**Pull request by luisacicolini**
This PR adds support the Count Trailing Zeros operation `BitVec.ctz` to the bitvector library and to `bv_decide`, relying on the existing `clz` circuit. We also build some theory around `BitVec.ctz` (analogous to the theory existing for `BitVec.clz`) and introduce lemmas `BitVec.[ctz_eq_reverse_clz, clz_eq_reverse_ctz, ctz_lt_iff_ne_zero, getLsbD_false_of_lt_ctz, getLsbD_true_ctz_of_ne_zero, two_pow_ctz_le_toNat_of_ne_zero, reverse_reverse_eq, reverse_eq_zero_iff]`. 

`ctz` operation is common in numerous compiler intrinsics (see [here](https://clang.llvm.org/docs/LanguageExtensions.html#intrinsics-support-within-constant-expressions)) and architectures (see [here](https://en.wikipedia.org/wiki/Find_first_set)).

### CODE REVIEW

**Comment by luisacicolini** [comment]
changelog-library

**Comment by ghost** [comment]
Mathlib CI status ([docs](https://leanprover-community.github.io/contribute/tags_and_branches.html)):
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 18a82c04fc59d3dba392308e09d65ee431240d89 --onto 5f818826d14a58b64d42fa8576003cd199adb50a`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-07-10 08:26:31)
- ❗ Batteries CI can not be attempted yet, as the `nightly-testing-2025-07-10` tag does not exist there yet. We will retry when you push more commits. If you rebase your branch onto `nightly-with-mathlib`, Batteries CI should run now. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-07-10 09:16:00)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase bbd45b13f48decbefe858629e1a964f1ee805b37 --onto ccb8568756c19158356d744826ac5eba949cc849`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-09-04 08:05:26)
- ❗ Batteries CI can not be attempted yet, as the `nightly-testing-2025-09-04` tag does not exist there yet. We will retry when you push more commits. If you rebase your branch onto `nightly-with-mathlib`, Batteries CI should run now. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-09-04 09:21:55)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase fc6a6cc4e2ed529abacae437447ef5206527a370 --onto c75d37f76bd5eca701dc67c1a19c8b7c50207712`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-09-10 07:57:21)
- ❗ Batteries CI can not be attempted yet, as the `nightly-testing-2025-09-10` tag does not exist there yet. We will retry when you push more commits. If you rebase your branch onto `nightly-with-mathlib`, Batteries CI should run now. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-09-10 09:16:50)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 88fa4212d7a7296f337f911f8dd5047e744e05fd --onto d869c38e7bee7d484040b758837be76f55db9498`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-09-15 12:47:49)

File: src/Std/Tactic/BVDecide/Normalize/BitVec.lean [hunk 1]
```diff
@@ -488,6 +489,9 @@ theorem BitVec.mul_beq_mul_short_circuit_right {x y₁ y₂ : BitVec w} :
   intros
   congr
 
+theorem BitVec.ctz_eq_clz {x : BitVec w} :
+    BitVec.ctz x = (x.reverse).clz := by rfl
```
Comment (bollu) [inline src/Std/Tactic/BVDecide/Normalize/BitVec.lean]:
```suggestion
theorem BitVec.ctz_eq_clz_reverse {x : BitVec w} :
    BitVec.ctz x = (x.reverse).clz := by rfl
```

**Review by bollu — CHANGES_REQUESTED** [review]
Thanks for adding this! 

We should also add a theorem that characterizes `ctz`, similar to the one for `clz`, that says that the `ctz >= k` iff `getLsbD i = 0` for `0 <= i < k`. 

As a corollary, we should show that if the `ctz = k`, then `getLsbD i = 0` for `i <= i < k`.

File: src/Std/Tactic/BVDecide/Normalize/BitVec.lean (hunk 1 above)
Comment (luisacicolini) [reply src/Std/Tactic/BVDecide/Normalize/BitVec.lean]: done

**Comment by luisacicolini** [comment]
thank you for the review @bollu, the lemma you required would depend on a lot of the infrastructure contained already in #7858, so I'll wait until that is merged and then come back to this.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 2]
```diff
@@ -5779,6 +5779,18 @@ theorem msb_replicate {n w : Nat} {x : BitVec w} :
   simp only [BitVec.msb, getMsbD_replicate, Nat.zero_mod]
   cases n <;> cases w <;> simp
 
+theorem reverse_eq_zero_iff {x : BitVec w} :
+    x.reverse = 0#w ↔ x = 0#w := by
```
Comment (bollu) [inline src/Init/Data/BitVec/Lemmas.lean:5784]:
```suggestion
@[simp]
theorem reverse_eq_zero_iff {x : BitVec w} :
    x.reverse = 0#w ↔ x = 0#w := by
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 3]
```diff
@@ -6182,6 +6194,58 @@ theorem toNat_lt_two_pow_sub_clz {x : BitVec w} :
...
+  apply getLsbD_true_of_eq_clzAuxRec_of_ne_zero (x := x.reverse) (n := w - 1) (by simp [reverse_eq_zero_iff, hx])
+  intro i hi
+  simp [show w ≤ i by omega]
+
+/-- A nonzero bitvector is lower-bounded by its leading zeroes. -/
+theorem two_pow_ctz_le_toNat_of_ne_zero {x : BitVec w} (hw : 0 < w) (hx : x ≠ 0#w) :
+    2 ^ (ctz x).toNat ≤ x.toNat := by
+  have hne := ctz_lt_iff_ne_zero (x := x)
+  have hclz := getLsbD_true_ctz_of_ne_zero (x := x) hw hx
+  rw [getLsbD_eq_getElem (by simp [BitVec.lt_def] at hne; simp [hne, hx])] at hclz
```
Comment (bollu) [inline src/Init/Data/BitVec/Lemmas.lean]:
```suggestion
  rw [getLsbD_eq_getElem (by simp [BitVec.lt_def] at hne; simp [hne, hx])] at hclz
```

The `simp ... at hne` should be a `simp only`, as it's not terminal.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 4]
```diff
@@ -6182,6 +6194,58 @@ theorem toNat_lt_two_pow_sub_clz {x : BitVec w} :
...
+          ((x.reverse.clzAuxRec (w - 1)).toNat ≤ (BitVec.ofNat w w).toNat) by simp only [toNat_ofNat,
+            Nat.mod_two_pow_self], ← le_def]
+    apply clzAuxRec_le (x := x.reverse) (n := w - 1)
+  let j := (x.reverse.clzAuxRec (w - 1)).toNat - 1 - i
+  rw [show w - 1 - i = w - (x.reverse.clzAuxRec (w - 1)).toNat + j by omega]
+  exact getLsbD_false_of_clzAuxRec (x := x.reverse) (n := w - 1) (by intros i hj; simp [show w ≤ i by omega]) (j := j)
+
+/-- If a bitvec is different than zero, the bit at index `ctz x`, i.e., the first bit after the
+  trailing zeros is true. -/
+theorem getLsbD_true_ctz_of_ne_zero {x : BitVec w} (hw : 0 < w) (hx : x ≠ 0#w) :
```
Comment (bollu) [inline src/Init/Data/BitVec/Lemmas.lean]:
```suggestion
theorem getLsbD_true_ctz_of_ne_zero {x : BitVec w} (hx : x ≠ 0#w) :
```

We can drop `hw`, as at width zero, all bitvectors are the zero bitvector.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 5]
```diff
@@ -6182,6 +6194,58 @@ theorem toNat_lt_two_pow_sub_clz {x : BitVec w} :
...
+
+/-- The number of trailing zeroes is strictly less than the bitwidth iff the bitvector is nonzero. -/
+theorem ctz_lt_iff_ne_zero {x : BitVec w} :
+    ctz x < w ↔ x ≠ 0#w := by
+  simp only [ctz_eq_reverse_clz, natCast_eq_ofNat, ne_eq]
+  rw [show BitVec.ofNat w w = w by simp, ← reverse_eq_zero_iff (x := x)]
+  apply clz_lt_iff_ne_zero (x := x.reverse)
+
+/-- If a bitvec is different than zero the bits at indexes lower than `ctz x` are false. -/
+theorem getLsbD_false_ctz_of_ne_zero {x : BitVec w} (hw : 0 < w) (hi : i < x.ctz.toNat) (hi' : i < w):
```
Comment (bollu) [inline src/Init/Data/BitVec/Lemmas.lean]:
```suggestion
theorem getLsbD_false_of_lt_ctz {x : BitVec w} (hi : i < x.ctz.toNat) (hi' : i < w) :
```

This theorem does not take a hyp `x ≠ 0#w`. even though the documentation and theorem name both being being not equal to zero. Can we change this to the proposed one? Also, we can drop `hw`, as if `w = 0`, then `x = 0`, and `hi` simplifies to `i < 0` which is a contradiction.

File: src/Init/Data/BitVec/Lemmas.lean (hunk 2 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean:5784]: done

File: src/Init/Data/BitVec/Lemmas.lean (hunk 3 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: done (golfed the proof, no simp was needed there)

File: src/Init/Data/BitVec/Lemmas.lean (hunk 4 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: dropped

File: src/Init/Data/BitVec/Lemmas.lean (hunk 5 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: done

File: src/Init/Data/BitVec/Lemmas.lean [hunk 6]
```diff
@@ -6182,6 +6195,54 @@ theorem toNat_lt_two_pow_sub_clz {x : BitVec w} :
...
 
+/-! ### Count trailing zeros -/
+
+@[simp]
+theorem ctz_eq_reverse_clz {x : BitVec w} :
+    x.ctz = (x.reverse).clz := by
+  simp [ctz]
+
+/-- The number of trailing zeroes is strictly less than the bitwidth iff the bitvector is nonzero. -/
+theorem ctz_lt_iff_ne_zero {x : BitVec w} :
```
Comment (bollu) [inline src/Init/Data/BitVec/Lemmas.lean:6216]: good `simp` lemma, no?

File: src/Init/Data/BitVec/Lemmas.lean [hunk 7]
```diff
@@ -6182,6 +6195,54 @@ theorem toNat_lt_two_pow_sub_clz {x : BitVec w} :
...
+    ctz x < w ↔ x ≠ 0#w := by
+  simp only [ctz_eq_reverse_clz, natCast_eq_ofNat, ne_eq]
+  rw [show BitVec.ofNat w w = w by simp, ← reverse_eq_zero_iff (x := x)]
+  apply clz_lt_iff_ne_zero (x := x.reverse)
+
+/-- If a bitvec is different than zero the bits at indexes lower than `ctz x` are false. -/
+theorem getLsbD_false_ctz_of_ne_zero {x : BitVec w} (hw : 0 < w) (hi : i < x.ctz.toNat) (hi' : i < w):
```
Comment (bollu) [inline src/Init/Data/BitVec/Lemmas.lean]:
```suggestion
theorem getLsbD_false_ctz_of_ne_zero {x : BitVec w} (hi : i < x.ctz.toNat) :
```

`0 < w` is redundant, as when `w = 0`, `x.getLsbD i = false` will always be true?

Similarly, isn't `hi'` also redundant, as when `i >= w`, we also have that `x.getLsbD i = false`?

File: src/Init/Data/BitVec/Lemmas.lean [hunk 8]
```diff
@@ -6182,6 +6195,54 @@ theorem toNat_lt_two_pow_sub_clz {x : BitVec w} :
...
+          ((x.reverse.clzAuxRec (w - 1)).toNat ≤ (BitVec.ofNat w w).toNat) by simp only [toNat_ofNat,
+            Nat.mod_two_pow_self], ← le_def]
+    apply clzAuxRec_le (x := x.reverse) (n := w - 1)
+  let j := (x.reverse.clzAuxRec (w - 1)).toNat - 1 - i
+  rw [show w - 1 - i = w - (x.reverse.clzAuxRec (w - 1)).toNat + j by omega]
+  exact getLsbD_false_of_clzAuxRec (x := x.reverse) (n := w - 1) (by intros i hj; simp [show w ≤ i by omega]) (j := j)
+
+/-- If a bitvec is different than zero, the bit at index `ctz x`, i.e., the first bit after the
+  trailing zeros is true. -/
+theorem getLsbD_true_ctz_of_ne_zero {x : BitVec w} (hw : 0 < w) (hx : x ≠ 0#w) :
```
Comment (bollu) [inline src/Init/Data/BitVec/Lemmas.lean]:
```suggestion
theorem getLsbD_true_ctz_of_ne_zero {x : BitVec w} (hx : x ≠ 0#w) :
```

Isn't `hw` redundant? When `w = 0`, we will get a contradiction from `x != 0`.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 9]
```diff
@@ -6182,6 +6195,54 @@ theorem toNat_lt_two_pow_sub_clz {x : BitVec w} :
...
+  have := ctz_lt_iff_ne_zero (x := x)
+  simp only [ctz_eq_reverse_clz, clz, natCast_eq_ofNat, lt_def, toNat_ofNat, Nat.mod_two_pow_self,
+    ne_eq] at this
+  simp only [this, hx, not_false_eq_true, decide_true, Bool.true_and]
+  apply getLsbD_true_of_eq_clzAuxRec_of_ne_zero (x := x.reverse) (n := w - 1) (by simp [reverse_eq_zero_iff, hx])
+  intro i hi
+  simp [show w ≤ i by omega]
+
+/-- A nonzero bitvector is lower-bounded by its leading zeroes. -/
+theorem two_pow_ctz_le_toNat_of_ne_zero {x : BitVec w} (hw : 0 < w) (hx : x ≠ 0#w) :
```
Comment (bollu) [inline src/Init/Data/BitVec/Lemmas.lean]:
```suggestion
theorem two_pow_ctz_le_toNat_of_ne_zero {x : BitVec w} (hx : x ≠ 0#w) :
```

I think `hw` is redundant: when `w = 0`, `x != 0` will give us a contradiction.

File: src/Init/Data/BitVec/Lemmas.lean (hunk 6 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean:6216]: simped

**Comment by luisacicolini** [comment]
thanks @bollu. I think I had forgotten to push some commits, everything should be okay now.

File: src/Init/Data/BitVec/Lemmas.lean (hunk 9 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: done

File: src/Init/Data/BitVec/Lemmas.lean (hunk 8 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: done

File: src/Init/Data/BitVec/Lemmas.lean (hunk 7 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: done

File: src/Init/Data/BitVec/Lemmas.lean [hunk 10]
```diff
@@ -6182,6 +6195,55 @@ theorem toNat_lt_two_pow_sub_clz {x : BitVec w} :
...
+/-- The number of trailing zeroes is strictly less than the bitwidth iff the bitvector is nonzero. -/
+@[simp]
+theorem ctz_lt_iff_ne_zero {x : BitVec w} :
+    ctz x < w ↔ x ≠ 0#w := by
+  simp only [ctz_eq_reverse_clz, natCast_eq_ofNat, ne_eq]
+  rw [show BitVec.ofNat w w = w by simp, ← reverse_eq_zero_iff (x := x)]
+  apply clz_lt_iff_ne_zero (x := x.reverse)
+
+/-- If a bitvec is different than zero the bits at indexes lower than `ctz x` are false. -/
+theorem getLsbD_false_of_lt_ctz {x : BitVec w} (hi : i < x.ctz.toNat) (hi' : i < w) :
```
Comment (bollu) [inline src/Init/Data/BitVec/Lemmas.lean]:
```suggestion
theorem getLsbD_false_of_lt_ctz {x : BitVec w} (hi : i < x.ctz.toNat) :
```

I believe `hi'` is redundant, since `ctz x <= w`. I'd prefer to drop the unnecessary hyp.

**Review by bollu — APPROVED** [review]
LGTM, but let us drop the unnecessary hypothesis. Thanks very mych!

File: src/Init/Data/BitVec/Lemmas.lean (hunk 10 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: done

File: src/Init/Data/BitVec/Lemmas.lean [hunk 11]
```diff
@@ -6182,6 +6195,65 @@ theorem toNat_lt_two_pow_sub_clz {x : BitVec w} :
         · simp [show w + 1 ≤ i by omega]
       · simp; omega
 
+/-! ### Count trailing zeros -/
+
+@[simp]
+theorem ctz_eq_reverse_clz {x : BitVec w} :
+    x.ctz = (x.reverse).clz := by
+  simp [ctz]
```
Comment (bollu) [inline src/Init/Data/BitVec/Lemmas.lean]:
```suggestion
theorem ctz_eq_reverse_clz {x : BitVec w} :
    x.ctz = (x.reverse).clz := by
  simp [ctz]
```

Let's un-simp this. If it is `simp`, it makes it hard to write API around `x.ctz`, as `simp` will instantly remove it into a `x.reverse.clz`, and then we lose the ability to reason about 
`ctz` behaviour.

**Review by tobiasgrosser — APPROVED** [review]
LGTM.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 12]
```diff
@@ -6182,6 +6195,64 @@ theorem toNat_lt_two_pow_sub_clz {x : BitVec w} :
         · simp [show w + 1 ≤ i by omega]
       · simp; omega
 
+/-! ### Count trailing zeros -/
+
+theorem ctz_eq_reverse_clz {x : BitVec w} :
+    x.ctz = (x.reverse).clz := by
+  simp [ctz]
```
Comment (hargoniX) [inline src/Init/Data/BitVec/Lemmas.lean:6212]: Do we also want a theorem in the other direction? `clz` -> `reverse ctz`?

File: src/Std/Tactic/BVDecide/Normalize/BitVec.lean [hunk 13]
```diff
@@ -492,6 +493,9 @@ theorem BitVec.mul_beq_mul_short_circuit_right {x y₁ y₂ : BitVec w} :
   intros
   congr
 
+theorem BitVec.ctz_eq_clz_reverse {x : BitVec w} :
+    BitVec.ctz x = (x.reverse).clz := by rfl
+
```
Comment (hargoniX) [inline src/Std/Tactic/BVDecide/Normalize/BitVec.lean]: Why is this theorem being restated here?

File: src/Init/Data/BitVec/Lemmas.lean [hunk 14]
```diff
@@ -6182,6 +6195,64 @@ theorem toNat_lt_two_pow_sub_clz {x : BitVec w} :
...
+  · simp [hzero, getLsbD_reverse]
+  · simp only [ctz_eq_reverse_clz, natCast_eq_ofNat, ne_eq, hzero, not_false_eq_true,
+      iff_true] at hiff
+    simp only [ctz] at hi
+    have hi' : i < w := by simp [BitVec.lt_def] at hiff; omega
+    simp only [hi', decide_true, Bool.true_and]
+    have : (x.reverse.clzAuxRec (w - 1)).toNat ≤ w := by
+      rw [show ((x.reverse.clzAuxRec (w - 1)).toNat ≤ w) =
+            ((x.reverse.clzAuxRec (w - 1)).toNat ≤ (BitVec.ofNat w w).toNat) by simp only [toNat_ofNat,
+              Nat.mod_two_pow_self], ← le_def]
```
Comment (hargoniX) [inline src/Init/Data/BitVec/Lemmas.lean]: This line looks a bit crazy but it doesn't have to be `simp only` right? That should make it a little easier to read I guess.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 15]
```diff
@@ -6182,6 +6195,64 @@ theorem toNat_lt_two_pow_sub_clz {x : BitVec w} :
...
+      apply clzAuxRec_le (x := x.reverse) (n := w - 1)
+    let j := (x.reverse.clzAuxRec (w - 1)).toNat - 1 - i
+    rw [show w - 1 - i = w - (x.reverse.clzAuxRec (w - 1)).toNat + j by
+      subst j
+      rw [Nat.sub_sub (n := (x.reverse.clzAuxRec (w - 1)).toNat),
+        ← Nat.add_sub_assoc (by exact Nat.one_add_le_iff.mpr hi)]
+      omega]
+    exact getLsbD_false_of_clzAuxRec (x := x.reverse) (n := w - 1) (by intros i hj; simp [show w ≤ i by omega]) (j := j)
```
Comment (hargoniX) [inline src/Init/Data/BitVec/Lemmas.lean]: This one is too long, maybe have a `have` for the slightly non trivial proof in the end instead?

File: src/Init/Data/BitVec/Lemmas.lean [hunk 16]
```diff
@@ -6182,6 +6195,64 @@ theorem toNat_lt_two_pow_sub_clz {x : BitVec w} :
...
+  trailing zeros, is true. -/
+theorem getLsbD_true_ctz_of_ne_zero {x : BitVec w} (hx : x ≠ 0#w) :
+    x.getLsbD (ctz x).toNat = true := by
+  simp only [ctz_eq_reverse_clz, clz]
+  rw [getLsbD_eq_getMsbD, ← getLsbD_reverse]
+  have := ctz_lt_iff_ne_zero (x := x)
+  simp only [ctz_eq_reverse_clz, clz, natCast_eq_ofNat, lt_def, toNat_ofNat, Nat.mod_two_pow_self,
+    ne_eq] at this
+  simp only [this, hx, not_false_eq_true, decide_true, Bool.true_and]
+  apply getLsbD_true_of_eq_clzAuxRec_of_ne_zero (x := x.reverse) (n := w - 1) (by simp [reverse_eq_zero_iff, hx])
```
Comment (hargoniX) [inline src/Init/Data/BitVec/Lemmas.lean]: Similar length issue here

**Review by hargoniX — CHANGES_REQUESTED** [review]
Looks fine apart from a few nitpicks :+1:

File: src/Init/Data/BitVec/Lemmas.lean (hunk 12 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean:6212]: done! and also added `BitVec.reverse_reverse_eq` which seemed to be missing.

File: src/Std/Tactic/BVDecide/Normalize/BitVec.lean (hunk 13 above)
Comment (luisacicolini) [reply src/Std/Tactic/BVDecide/Normalize/BitVec.lean]: removed, only left in `Lemmas`

File: src/Init/Data/BitVec/Lemmas.lean (hunk 14 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: correct, removed `only`

File: src/Init/Data/BitVec/Lemmas.lean (hunk 15 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: done

File: src/Init/Data/BitVec/Lemmas.lean (hunk 16 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: done
